US09035062B2
(2S,5S)-tert-Butyl 5-hydroxy-1-(2,2,2-trifluoroacetyl)piperidine-2-carboxylate (C)
A solution of 39.14 g (194 mmol) of (2S,5S)-tert-butyl 5-hydroxypiperidine-2-carboxylate in dehydrated tetrahydrofuran (450 mL) was cooled to −3 to −5° C. under argon atmosphere, and 78.7 g (776 mmol) of triethylamine was added, followed by dropwise addition of 81.5 g (388 mmol) of trifluoroacetic acid anhydride over 30 minutes. The reaction mixture was allowed to react at −3 to −5° C. for 1 hour, and water (90 mL) was added, followed by raising the temperature to room temperature and stifling for 1 hour. Water (740 mL) was added to the reaction mixture, followed by extraction with ethyl acetate (450 mL×3 times), and the combined organic layer was washed sequentially with 5% aqueous citric acid solution (450 mL), 6.5% aqueous sodium hydrogencarbonate solution (450 mL) and water (450 mL). The solvent was distilled off under reduced pressure, and the resulting residue was applied to silica gel column chromatography (hexane/ethyl acetate=2/1) to afford 50.06 g of the title compound as a pale yellow solid (yield 87%). Enantiomeric excess: 99% ee or more (CHIRALPAK AD-H, 4.6×150 mm, UV 210 nm, hexane/ethanol=4/1, flow rate 1 mL/min., retention time 4.2 min.).

reactant | (2S,5S)-tert-butyl 5-hydroxypiperidine-2-carboxylate | 194 mmol, 39.14 g | O[C@H]1CC[C@H](NC1)C(=O)OC(C)(C)C | C10H19NO3
reactant | triethylamine | 776 mmol, 78.7 g | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic acid anhydride | 388 mmol, 81.5 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | water | 90 mL | O | H2O
reactant | Water | 740 mL | O | H2O
solvent | tetrahydrofuran | 450 mL | O1CCCC1 | C4H8O
product | (2S,5S)-tert-Butyl 5-hydroxy-1-(2,2,2-trifluoroacetyl)piperidine-2-carboxylate | 50.06 g, yield 87% | O[C@H]1CC[C@H](N(C1)C(C(F)(F)F)=O)C(=O)OC(C)(C)C | C12H18F3NO4
